US05021478
N-(1-Octyloxy-2,2,6,6-tetramethylpiperidin-4-yl) -3-(2H-benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamamide
A mixture of 4.0 g (11.3 mmol) of methyl 3-(2H-benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate and 8.0 g (28.1 mmol) of 4-amino-1-octyloxy-2,2,6,6-tetramethylpiperidine is heated at 190°-200° C. for 2 hours. The reaction mixture is dissolved in ethyl acetate (300 ml). The organic solution is washed with 1N hydrochloric acid (2 ×100 ml) and saturated sodium bicarbonate solution (200 ml), then dried over magnesium sulfate and evaporated to obtain a solid. Purification by flash chromatography on silica gel (3:1 heptane: ethyl acetate) following by recrystallization from methanol affords 1.0 g (15% yield) of the title compound, a white solid, mp 153°-9° C.

reactant | methyl 3-(2H-benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate | 11.3 mmol, 4.0 g | N=1N(N=C2C1C=CC=C2)C=2C=C(CCC(=O)OC)C=C(C2O)C(C)(C)C | C20H23N3O3
reactant | 4-amino-1-octyloxy-2,2,6,6-tetramethylpiperidine | 28.1 mmol, 8.0 g | NC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C17H36N2O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | N-(1-Octyloxy-2,2,6,6-tetramethylpiperidin-4-yl) -3-(2H-benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamamide | 1.0 g, 15% yield | C(CCCCCCC)ON1C(CC(CC1(C)C)NC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)N1N=C2C(=N1)C=CC=C2)=O)(C)C | C36H55N5O3
